US08304514B2
Next, 13.60 mmol of 4-nitro-N,N-bis(4-(2,4,4-trimethylpentan-2-yl)phenyl)aniline, 0.22 of 10% Pd/C, and 150 ml of ethanol were added into a bottle. Next, the mixture was heated to reflux, and 7 ml of hydrazine monohydrate was added slowly to the mixture from a dropping funnel over a period of 1 hrs under dry nitrogen. After a further 12 hrs of reflux, the mixture solution was filtered to remove Pd/C, and the filtrate was cooled to precipitate. The crude product was collected by filtration and recrystallization from ethanol to afford 4-Amino-N,N-bis(4-(2,4,4-trimethylpentan-2-yl)phenyl)aniline as a white crystal with a yield of 80%. The 4-amino-N,N-bis(4-(2,4,4-trimethylpentan-2-yl)phenyl)aniline had a melt point of 95° C.

reactant | 4-nitro-N,N-bis(4-(2,4,4-trimethylpentan-2-yl)phenyl)aniline | 13.60 mmol | [N+](=O)([O-])C1=CC=C(N(C2=CC=C(C=C2)C(C)(CC(C)(C)C)C)C2=CC=C(C=C2)C(C)(CC(C)(C)C)C)C=C1 | C34H46N2O2
reactant | hydrazine monohydrate | 7 ml | O.NN
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-Amino-N,N-bis(4-(2,4,4-trimethylpentan-2-yl)phenyl)aniline | yield of 80% | NC1=CC=C(N(C2=CC=C(C=C2)C(C)(CC(C)(C)C)C)C2=CC=C(C=C2)C(C)(CC(C)(C)C)C)C=C1 | C34H48N2
